US06066657
2-Dimethylsulfamyl-7-methoxybenzofuran-4-carboxylic Acid (3-methyl-pyridin-4-yl)amide
To a stirred solution of 4-amino-3-methylpyridine (200 mg) in dimethylformamide (8 ml) under an atmosphere of nitrogen at 0° C. was added sodium hexamethyldisilazide (1.0M solution in tetrahydrofuran, 1.9 ml). The reaction mixture was stirred at this temperature for 5 minutes. 2-Dimethylsulfamyl-7-methoxy-benzofuran-4-carboxylic acid 4-nitrophenyl ester (400 mg) was then added and stirring continued for 30 minutes. Water (10 ml) was added and the solvent was removed in vacuo. The residue was dissolved in ethyl acetate (150 ml), washed with water (3×50 ml) and washed with brine (50 ml). The combined organic layers were dried over magnesium sulfate, filtered and concentrated in vacuo. Purification by column chromatography eluting with 10% methanol in ethyl acetate afforded the title compound as a white solid (0.3 g).

reactant | 4-amino-3-methylpyridine | 200 mg | NC1=C(C=NC=C1)C | C6H8N2
reactant | sodium hexamethyldisilazide | 1.0M, 1.9 ml | C[Si]([N-][Si](C)(C)C)(C)C.[Na+]
reactant | 2-Dimethylsulfamyl-7-methoxy-benzofuran-4-carboxylic acid 4-nitrophenyl ester | 400 mg | [N+](=O)([O-])C1=CC=C(C=C1)OC(=O)C=1C=CC(=C2C1C=C(O2)S(N(C)C)(=O)=O)OC | C18H16N2O8S
reactant | Water | 10 ml | O | H2O
solvent | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | 2-Dimethylsulfamyl-7-methoxybenzofuran-4-carboxylic Acid (3-methyl-pyridin-4-yl)amide | 0.3 g | CC=1C=NC=CC1NC(=O)C=1C=CC(=C2C1C=C(O2)S(N(C)C)(=O)=O)OC | C18H19N3O5S
